US07772253B2
4-[3-Methoxy-5-(3-methoxycarbonyl-propoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester
1.60 g (4.6 mmol) of 4-(3-hydroxy-5-methoxy-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester [prepared from 3-hydroxy-5-methoxy-benzoic acid by reaction with 4-amino-piperidine-carboxylic acid tert-butyl ester, N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride and N,N-dimethyl-4-aminopyridine in dichloromethane/tetrahydrofuran between 0° C. and rt in analogy to example 60d)] was dissolved in 65 mL of MeCN at rt; 1.29 g (9.4 mmol) of anhydrous potassium carbonate was added at 5° C.; then, 0.61 mL (0.87 g=4.8 mmol) of 4-bromo-butyric acid methyl ester was added drop by drop. The reaction mixture was stirred at 95° C. for 22 hours. It was then cooled down to ambient temperature, poured into crashed ice and extracted twice with EtOAc. The organic phases were washed with water and brine, dried over MgSO4, filtered and evaporated i.V. to yield 1.91 g of the title compound as colorless solid. MS: 451.1 (MH+).

reactant | 4-(3-hydroxy-5-methoxy-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.6 mmol, 1.60 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=CC(=C1)OC)O)=O | C18H26N2O5
reactant | 3-hydroxy-5-methoxy-benzoic acid | OC=1C=C(C(=O)O)C=C(C1)OC | C8H8O4
reactant | 4-amino-piperidine-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | potassium carbonate | 9.4 mmol, 1.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-butyric acid methyl ester | 4.8 mmol, 0.61 mL, 0.87 g | COC(CCCBr)=O | C5H9BrO2
catalyst | N,N-dimethyl-4-aminopyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane tetrahydrofuran | ClCCl.O1CCCC1
solvent | MeCN | 65 mL | CC#N | C2H3N
product | 4-[3-Methoxy-5-(3-methoxycarbonyl-propoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.91 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=CC(=C1)OCCCC(=O)OC)OC)=O | C23H34N2O7
